US05888531
(S,S)-4-[2-benzyloxycarbonylamino-3-(4-methoxyphenyl)propionyl]-3-(3-benzyloxycarbonylaminopropyl)-2-oxopiperazine-1-acetic acid
In 100 ml of a 50% aqueous solution of dioxane was dissolved 3.8 g of (S,S)-3-(3-aminopropyl)-4-[2-benzyloxycarbonylamino-3-(4-methoxyphenyl)propionyl]-2-oxopiperazine-1-acetic acid produced in Reference Example 33. To the solution was added 1.52 g of NaHCO3, to which was added dropwise, under ice-cooling, 1.24 ml of Z-chloride. The mixture was stirred for 1.5 hour at room temperature. Dioxane was distilled off. To the residue was added a 3% aqueous solution of KHSO4 to adjust the pH to 2. The mixture was subjected to extraction with ethyl acetate. The extract solution was washed with a saturated aqueous solution of NaHCO3 and dried (Na2SO4), followed by concentration under reduced pressure. To the concentrate was added ether. The mixture was subjected to decantation twice to afford 4 g of the title compound.

reactant | (S,S)-3-(3-aminopropyl)-4-[2-benzyloxycarbonylamino-3-(4-methoxyphenyl)propionyl]-2-oxopiperazine-1-acetic acid | 3.8 g | NCCC[C@H]1C(N(CCN1C([C@H](CC1=CC=C(C=C1)OC)NC(=O)OCC1=CC=CC=C1)=O)CC(=O)O)=O | C27H34N4O7
reactant | NaHCO3 | 1.52 g | C(=O)(O)[O-].[Na+]
reactant | Z-chloride | 1.24 ml | C1=CC=C(C=C1)COC(=O)Cl | C8H7ClO2
solvent | dioxane | O1CCOCC1 | C4H8O2
product | (S,S)-4-[2-benzyloxycarbonylamino-3-(4-methoxyphenyl)propionyl]-3-(3-benzyloxycarbonylaminopropyl)-2-oxopiperazine-1-acetic acid | 4 g | C(C1=CC=CC=C1)OC(=O)N[C@H](C(=O)N1[C@H](C(N(CC1)CC(=O)O)=O)CCCNC(=O)OCC1=CC=CC=C1)CC1=CC=C(C=C1)OC | C35H40N4O9
